US07420083B2
Synthesis of 4-{3-[({(E)-[3,5-Bis(trifluoromethyl)phenyl]methylidene}amino)oxy]propoxy}-2-hydroxybenzoic Acid
The title compound (0.115 g, 12%) was prepared as a white solid from 4-(3-bromo-propoxy)-2-hydroxy-benzoic acid methyl ester and 3,5-bis-trifluoromethyl-benzaldehyde oxime using a procedure similar to step 1 of example 12. mp=181.9-183.4° C.; mass spectrum −ESI, (M−H) m/z 450. 1H NMR (400 MHz, DMSO-d6); 613.60 (bs, 1H), 11.50 (bs, 1H), 8.48 (s, 1H), 8.23 (s, 2H), 8.13 (s, 1H), 7.66 (d, 1H), 6.47 (m, 2H), 4.33 (t, 2H), 4.12 (t, 2H), 2.12 (m, 2H). Elemental analysis: Calcd. for C19H15F6NO5: C, 50.56; H, 3.35; N, 3.1, Found: C, 50.25; H, 3.32; N, 2.93.

reactant | 4-(3-bromo-propoxy)-2-hydroxy-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)OCCCBr)O)=O | C11H13BrO4
reactant | 3,5-bis-trifluoromethyl-benzaldehyde oxime | FC(C=1C=C(C=NO)C=C(C1)C(F)(F)F)(F)F | C9H5F6NO
product | 4-{3-[({(E)-[3,5-Bis(trifluoromethyl)phenyl]methylidene}amino)oxy]propoxy}-2-hydroxybenzoic Acid | 0.115 g, 12% | FC(C=1C=C(C=C(C1)C(F)(F)F)\C=N\OCCCOC1=CC(=C(C(=O)O)C=C1)O)(F)F | C19H15F6NO5
